US08283353B2
4′-(hydroxymethyl)-2′-nitrobiphenyl-2-carbonitrile
To a mixture of 4′-formyl-2′-nitrobiphenyl-2-carbonitrile (5.15 g), methanol (30 mL) and hydrofuran (30 mL) was gradually added sodium borohydride (0.40 g) at 0° C., and the mixture was stirred at room temperature for 30 min. The reaction mixture was poured into 1 M hydrochloric acid (20 mL), and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a pale-yellow oil (3.62 g, 70%).

reactant | 4′-formyl-2′-nitrobiphenyl-2-carbonitrile | 5.15 g | C(=O)C1=CC(=C(C=C1)C=1C(=CC=CC1)C#N)[N+](=O)[O-] | C14H8N2O3
reactant | methanol | 30 mL | CO | CH4O
reactant | sodium borohydride | 0.40 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 M, 20 mL | Cl | ClH
solvent | hydrofuran | 30 mL | C1CCOC1 | C4H8O
product | 4′-(hydroxymethyl)-2′-nitrobiphenyl-2-carbonitrile | 3.62 g, 70% | OCC1=CC(=C(C=C1)C=1C(=CC=CC1)C#N)[N+](=O)[O-] | C14H10N2O3
